### PR TITLE
gen exp_fun

### PR DESCRIPTION
**Pull request by affeldt-aist**
- rename to power_pow
- fix doc
- add scope to notation

##### Motivation for this change

We @hoheinzollern @t6s needed a bit more general version of `exp_fun` for PR #790 and PR #516 
(in particular to define a power function with extended reals)

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/exp.v [hunk 1]
```diff
@@ -572,68 +572,95 @@ Unshelve. all: by end_near. Qed.
 
 End Ln.
 
-Section ExpFun.
+Section PowerPos.
 Variable R : realType.
 Implicit Types a x : R.
 
-Definition exp_fun a x := expR (x * ln a).
+Definition power_pos a x := if a == 0 then 0 else expR (x * ln a).
```
Comment (t6s) [inline theories/exp.v:579]: Within the current limitation that we cannot properly handle the complex analysis, this definition seems to be the best possible approximation to the power function on R x R.  It works for 0 < r < ∞, 0 <= θ < π if seen in the polar coordinate system.

**Comment by affeldt-aist** [comment]
@thery Allow me to ping you in case this slipped under your radar

File: theories/exp.v [hunk 2]
```diff
@@ -572,68 +572,95 @@ Unshelve. all: by end_near. Qed.
...
 
-Lemma exp_funr0 a : 0 < a -> a `^ 0 = 1.
-Proof. by move=> a0; rewrite /exp_fun mul0r expR0. Qed.
+Lemma power_posr1 a : 0 <= a -> a `^ 1 = a.
+Proof.
+rewrite /power_pos => a0; case: ifPn => [/eqP//|h].
+by rewrite mul1r lnK// posrE lt_neqAle eq_sym h.
+Qed.
+
+Lemma power_posr0 a : 0 < a -> a `^ 0 = 1.
```
Comment (hoheinzollern) [inline theories/exp.v:595]: This lemma can be proved with `a != 0` instead of `0 < a`

Comment (proux01) [reply theories/exp.v:595]: @hoheinzollern well, ``0 `^ 0`` is defined as `0`, are you suggesting to change the definition to something like?
```
Definition power_pos a x := if a == 0 then if x == 0 then 1 else 0 else expR (x * ln a).
````
(I have no opinion on the subject)

File: theories/exp.v [hunk 3]
```diff
@@ -572,68 +572,95 @@ Unshelve. all: by end_near. Qed.
...
-move=> a0.
+rewrite le_eqVlt => /predU1P[<-|a0]; first by rewrite invr0 /power_pos eqxx.
 apply/(@mulrI _ a); first by rewrite unitfE gt_eqF.
-rewrite -[X in X * _ = _](exp_funr1 a0) -exp_funD // subrr exp_funr0 //.
-by rewrite divrr // unitfE gt_eqF.
+rewrite -[X in X * _ = _](power_posr1 (ltW a0)) -power_posD // subrr.
+by rewrite power_posr0 // divrr // unitfE gt_eqF.
+Qed.
+
+Lemma power_pos_mulrn a n : 0 < a -> a `^ n%:R = a ^+ n.
```
Comment (proux01) [inline theories/exp.v:624]: Maybe a similar lemma for `intmul` would be nice?

**Review by proux01 — APPROVED** [review]
Overall looks good to me

File: theories/exp.v (hunk 3 above)
Comment (affeldt-aist) [reply theories/exp.v]: We have added this lemma. Thank you for the suggestion.

**Comment by hoheinzollern** [comment]
LGTM

**Comment by affeldt-aist** [comment]
Many thanks for the reviews!
